US07557215B2
1,4-Bis-{[2-(3-hydroxymethylpiperidine-1-yl)ethyl]amino}-anthracene-9,10-dione (HAQ38)
Although not shown in scheme 3, the method follows that of HAQ70 using leucoquinizarin (0.23 g, 0.95 mmol), [1-(2-aminoethyl)-piperidin-3-yl-]methanol (0.06 g, 3.8 mmol) and ethanol (25 mL). The title compound was yielded as a dark-blue solid (0.15 g, 29%). M.p. 112-114° C.; δH(250 MHz; CDCl3); 1.15 (m, 2H, 2×CH2CHCH2OH), 1.5-1.75 (m, 6H, 2×CH2CH2CH and 2×CH2CH2CH2), 1.85 (m, 2H, 2×CH2CH2CH), 2.3 (m, 4H, 4×ring-H), 2.5 (s (broad), 4H, 2×ring-H, 2×OH), 2.65 (t, 4H, J=5 Hz, 2×HNCH2CH2N), 2.75 (2×d, 2H, J=3 Hz and 12 Hz, 2×ring-H), 3.42 (q, 4H, J=5 Hz, 2×HNCH2CH2N), 3.55 (2×d, 2H, J=5 Hz and 12 Hz, 2×CHCH2OH), 3.7 (2×d, 2H, J=9 Hz and 12 Hz, 2×CHCH2OH), 7.1 (s, 2H, C(2)H and C(3)H), 7.6 (m, 2H, C(6)H and C(7)H), 8.3 (m, 2H, C(5)H, C(8)H) and 10.75 (t, 2H, C(1)NH and C(4)NH); δC(62.9 MHz; CDCl3); 24.08, 26.92, 37.90, 40.52, 54.43, 56.95, 57.75, 65.70, 109.89, 123.87, 126.13, 132.09, 134.46, 146.6 and 182.36; FAB MS, m/z(M+H)+ 521; IR υmax/cm−1; 3400 (OH), 3090 (Ar—CH), 2960-2800 (CH2, CH3), 1650, 1585, 1550, 1520, 1265, 1175 and 1125; Anal. calcd for C30H40N4O4: C, 69.21; H, 7.74; N, 10.76. Found: C, 69.22; H, 7.88; N, 10.69.

reactant | leucoquinizarin | 0.95 mmol, 0.23 g | C1CC(=O)C2=C(C3=CC=CC=C3C(=C2C1=O)O)O | C14H10O4
reactant | [1-(2-aminoethyl)-piperidin-3-yl-]methanol | 3.8 mmol, 0.06 g | NCCN1CC(CCC1)CO | C8H18N2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 1,4-Bis-{[2-(3-hydroxymethylpiperidine-1-yl)ethyl]amino}-anthracene-9,10-dione | OCC1CN(CCC1)CCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCCN1CC(CCC1)CO | C30H40N4O4
